US06727264B1
N-{3-[1-(1H-INDOL-6-YLMETHYL)-4-PIPERIDINYL]PHENYL}-2-METHYLPROPANAMIDE:
Prepared by Procedure F and Scheme R using 1H-indole-6-carbaldehyde and 2-methyl-N-[3-(4-piperidinyl)phenyl]propanamide: ESMS m/e: 376.2 (M+H)+.

reactant | 1H-indole-6-carbaldehyde | N1C=CC2=CC=C(C=C12)C=O | C9H7NO
reactant | 2-methyl-N-[3-(4-piperidinyl)phenyl]propanamide | CC(C(=O)NC1=CC(=CC=C1)C1CCNCC1)C | C15H22N2O
product | N-{3-[1-(1H-INDOL-6-YLMETHYL)-4-PIPERIDINYL]PHENYL}-2-METHYLPROPANAMIDE | N1C=CC2=CC=C(C=C12)CN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O | C24H29N3O
